US07601702B2
1,1,2-Triphenylethanol (40)
To a suspension of Mg (1.7 g, 0.07 mol) in dry ether (25 mL) was added a solution of benzyl bromide (10 mL, 1.5 equ.) in dry ether (25 mL) drop-wise and allowed to stir at RT for 1 h. By the time all magnesium was dissolved and the reaction mixture was cooled to 0° C. To this was added a solution of benzophenone (10 g, 0.05 mol) in dry ether (25 mL) and allowed to stir at RT for 5 h. The progress of the reaction was followed by TLC and when it was ready the reaction mixture was quenched with saturated NH4Cl solution, extracted with ether (100 mL), washed with brine, dried and concentrated under vacuum. The crude product was purified by column chromatography on silica gel (10% ethyl acetate in pet. ether) to give the title compound (9.6 g, 65%) as a white solid.

reactant | benzyl bromide | 10 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | magnesium | [Mg] | Mg
reactant | benzophenone | 0.05 mol, 10 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | ether | 25 mL | CCOCC | C4H10O
solvent | ether | 25 mL | CCOCC | C4H10O
solvent | ether | 25 mL | CCOCC | C4H10O
product | 1,1,2-Triphenylethanol | 9.6 g, 65% | C1(=CC=CC=C1)C(CC1=CC=CC=C1)(O)C1=CC=CC=C1 | C20H18O
